US05047411
To a mixture of 3-benzyloxy-4-nitrocinnamic acid (12.9 g) and 2-(1-aminoethyl)-4-methylpyridine acetate (8.5 g) in N,N-dimethylformamide (150 ml) were added 1-hydroxybenzotraizole (7 g), N,N'-dicyclohexylcarbodiimide (10.65 g) and triethylamine (4.36 g), which was stirred at ambient temperature for 24 hours. After filtration, the filtrate was evaporated under reduced pressure. The residue was suspended in ethyl acetate (100 ml), which was filtered, and evaporated. The residue was subjected to column chromatography on silica gel to give 4-methyl-2-[1-(3-benzyloxy-4-nitrocinnamoylamino)ethyl]pyridine.

reactant | 3-benzyloxy-4-nitrocinnamic acid | 12.9 g | C(C1=CC=CC=C1)OC=1C=C(C=CC(=O)O)C=CC1[N+](=O)[O-] | C16H13NO5
reactant | 2-(1-aminoethyl)-4-methylpyridine acetate | 8.5 g | C(C)(=O)O.NC(C)C1=NC=CC(=C1)C
reactant | N,N'-dicyclohexylcarbodiimide | 10.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 4.36 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-methyl-2-[1-(3-benzyloxy-4-nitrocinnamoylamino)ethyl]pyridine | CC1=CC(=NC=C1)C(C)NC(C=CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C24H23N3O4
